US07825128B2
a) Preparation of (RS)—S-(4-nitrophenyl)-N-(methylcarbamoyl)-S-methylsulfoximide
300 mg (1.5 mmol) (RS)—S-(4-nitrophenyl)-S-methylsulphoximide in 8 ml toluene and 4 ml petroleum ether 60/80 are treated with 0.097 ml (1.65 mmol) methyl isocyanate. The mixture is stirred in a pressure tube at 104° C. for 5 hours and at room temperature for 14 hours. The suspension is filtrated to give 302 mg (corresponding to 78% of theor.) of the product.

reactant | (RS)—S-(4-nitrophenyl)-S-methylsulphoximide | 1.5 mmol, 300 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
reactant | methyl isocyanate | 1.65 mmol, 0.097 ml | CN=C=O | C2H3NO
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)—S-(4-nitrophenyl)-N-(methylcarbamoyl)-S-methylsulfoximide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=NC(NC)=O)C | C9H11N3O4S
